US05847149
4-Octyloxyphenylboronic acid (5.9 g, 23.6 mmol) and 2,5-dibromo-1,3,4-thiadiazole (5.8 g, 23.6 mmol) are refluxed for 14 hours in a mixture of sodium carbonate (19.56 g), toluene (70 ml), ethanol (35 ml) and water (35 ml) and tetrakis(triphenylphosphine)palladium(0) (10 mol %) as catalyst. Aqueous work-up and column chromatography (SiO2, CH2Cl2) give 5.6 g (65% of theory) of 2-bromo-5-(4-octyloxyphenyl)-1,3,4-thiadiazole.

reactant | 4-Octyloxyphenylboronic acid | 23.6 mmol, 5.9 g | C(CCCCCCC)OC1=CC=C(C=C1)B(O)O | C14H23BO3
reactant | 2,5-dibromo-1,3,4-thiadiazole | 23.6 mmol, 5.8 g | BrC=1SC(=NN1)Br | C2Br2N2S
catalyst | sodium carbonate | 19.56 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
catalyst | ethanol | 35 ml | C(C)O | C2H6O
catalyst | water | 35 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-bromo-5-(4-octyloxyphenyl)-1,3,4-thiadiazole | 5.6 g, 65% | BrC=1SC(=NN1)C1=CC=C(C=C1)OCCCCCCCC | C16H21BrN2OS
